US04535086
5.2 g of magnesium shavings are suspended in 100 ml of absolute ether and treated dropwise with 13.5 ml of methyl iodide. After the addition of 100 ml of ether, the mixture is boiled at reflux for a further 3 hours until all magnesium has dissolved. The mixture is cooled to 0° C. and treated with 20.7 g of finely powdered copper (I) iodide. After stirring at 0° C. for 15 minutes, a solution of 10 g of 3,6,6-trimethyl-2-cyclohexanone in 40 ml of ether is added dropwise thereto and the mixture is stirred at 0° C. for a further 4 hours. Thereafter, the yellow suspension is poured into ice/2N hydrochloric acid, extracted several times with ether, the organic phase is dried and evaporated. The residue is distilled in a water-jet vacuum. There are obtained 9 g of 2,2,5,5-tetramethylcyclohexanone as a colorless liquid, b.p. 71°-74° C./15 mm.

reactant | magnesium | 5.2 g | [Mg] | Mg
reactant | methyl iodide | 13.5 ml | CI | CH3I
reactant | 3,6,6-trimethyl-2-cyclohexanone | 10 g | CC1C(CC(CC1)(C)C)=O | C9H16O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
catalyst | copper (I) iodide | [Cu]I
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2,2,5,5-tetramethylcyclohexanone | 9 g | CC1(C(CC(CC1)(C)C)=O)C | C10H18O
